US04033935
Clay is reacted with sulfuric acid, thereby producing metasilicic acid, which is recovered by filtration. About one mol of said metasilicic acid is mixed with 2 mols of urea, heated to 90° to 150° C. for 20 to 30 minutes, thereby producing white granules of diurea silicate. The said diurea silicate is added to an aqueous solution of hexamethylene tetramine in the ratio of 1:1.5 mols, heated to 70° to 110° C. for 20 to 90 minutes, thereby producing a clear thick solution of poly (formaldehyde diurea silicate) resin, and upon further heating, a white resin is produced. The said white resin is soluble in acetic acid and produces a clear solution; the unreacted silicic acid is precipitated. The solution of poly (formaldehyde diurea silicate) resin forms a clear tough coating on wood.

reactant | diurea silicate | [Si](O)(O)(O)O.NC(=O)N.NC(=O)N
reactant | hexamethylene tetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
product | formaldehyde diurea silicate | [Si](O)(O)(O)O.NC(=O)N.NC(=O)N.C=O | InChI=1S/2CH4N2O.CH2O.H4O4Si/c2*2-1(3)4;1-2;1-5(2,3)4/h2*(H4,2,3,4);1H2;1-4H
